US08202873B2
1-[3-(4-Fluoro-phenyl)-pyridin-2-yl]-4-(1-isopropyl-1H-pyrazol-4-ylmethyl)-piperazine hydrochloride
Dissolve {4-[3-(4-fluoro-phenyl)-pyridin-2-yl]-piperazin-1-yl}-(1-isopropyl-1H-pyrazol-4-yl)-methanone (0.280 g, 0.712 mmol) in tetrahydrofuran (5 mL). Add borane dimethylsulfide (2 M in tetrahydrofuran, 0.64 mL, 1.28 mmol), and reflux the mixture for 18 hr. Cool the mixture to room temperature and carefully add a small amount of methanol then 2N sodium hydroxide (5 mL). Reflux the mixture for 2 hr. then cool and evaporate the organics. Add water and extract the mixture 3 times with ethyl acetate. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 6:94 2 M ammonia in methanol:DCM), to give the free base white solid. Dissolve the free base in methanol and add ammonium chloride then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a white solid (0.127 g, 43%). MS (ES): m/z=380 [M+H]+.

reactant | {4-[3-(4-fluoro-phenyl)-pyridin-2-yl]-piperazin-1-yl}-(1-isopropyl-1H-pyrazol-4-yl)-methanone | 0.712 mmol, 0.280 g | FC1=CC=C(C=C1)C=1C(=NC=CC1)N1CCN(CC1)C(=O)C=1C=NN(C1)C(C)C | C22H24FN5O
reactant | borane dimethylsulfide | 1.28 mmol, 2 M, 0.64 mL | CSC.B
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-[3-(4-Fluoro-phenyl)-pyridin-2-yl]-4-(1-isopropyl-1H-pyrazol-4-ylmethyl)-piperazine hydrochloride | 0.127 g, 43% | Cl.FC1=CC=C(C=C1)C=1C(=NC=CC1)N1CCN(CC1)CC=1C=NN(C1)C(C)C | InChI=1S/C22H26FN5.ClH/c1-17(2)28-16-18(14-25-28)15-26-10-12-27(13-11-26)22-21(4-3-9-24-22)19-5-7-20(23)8-6-19;/h3-9,14,16-17H,10-13,15H2,1-2H3;1H
